US05534515
1b. 1-Benzyl-7-benzyloxy-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine
1.3 g (3.6 mmol) of 1-benzyl-7-benzyloxy-3-formyl-2-methylpyrrolo[2,3-d]pyridazine and 140 mg (3.7 mmol) of sodium borohydride are reacted in 125 ml of ethanol as described for Example 1a. Yield: 92%, m.p.: 130°-132° C.

reactant | 1-benzyl-7-benzyloxy-3-formyl-2-methylpyrrolo[2,3-d]pyridazine | 3.6 mmol, 1.3 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=CC=C2)C=O)C | C22H19N3O2
reactant | sodium borohydride | 3.7 mmol, 140 mg | [BH4-].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 1-Benzyl-7-benzyloxy-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine | Yield: 92% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=CC=C2)CO)C | C22H21N3O2
